US07732452B2
4-[2-(4′-Fluoro-biphenyl-4-yloxy)-acetylamino]5-methyl-thiophene-3-carboxylic acid
In analogy to Example 2, the title compound was prepared using 4-(2-chloro-acetylamino)-5-methyl-thiophene-3-carboxylic acid methyl ester [23964-99-0] and 4′-fluoro-biphenyl-4-ol. MS (m/e): 384.0 (M−H).

reactant | 4-(2-chloro-acetylamino)-5-methyl-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC(=C1NC(CCl)=O)C | C9H10ClNO3S
reactant | 4′-fluoro-biphenyl-4-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
product | 4-[2-(4′-Fluoro-biphenyl-4-yloxy)-acetylamino]5-methyl-thiophene-3-carboxylic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)NC=1C(=CSC1C)C(=O)O | C20H16FNO4S
